US04611060
Chlorocarbonyl isocyanate (0.8 g) was added to a suspension of N-[4-(6-chlorobenzothiazol-2-yloxyl)phenyl]-N'-methylurea (2.4 g) in 1,4-dioxane (50 ml), and the mixture was heated at the boiling point for 5 hours. The mixture was evaporated under reduced pressure and the residue was dissolved in a minimal volume of boiling 1,4-dioxane. After addition of ethanol (50 ml), the clear solution was cooled in a refrigerator. The resulting solid substance was collected by filtration, washed with cold ethanol and dried to give 2.1 g of 1-[4-(6-chlorobenzothiazol-2-yloxy)phenyl]-3-methyl-1,3,5-triazine-2,4,6-(1H,3H,5H)-trione of melting point 270°-271°C.

reactant | Chlorocarbonyl isocyanate | 0.8 g | ClC(=O)N=C=O | C2ClNO2
reactant | N-[4-(6-chlorobenzothiazol-2-yloxyl)phenyl]-N'-methylurea | 2.4 g | ClC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)NC(=O)NC)C=C1 | C15H12ClN3O2S
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(6-chlorobenzothiazol-2-yloxy)phenyl]-3-methyl-1,3,5-triazine-2,4,6-(1H,3H,5H)-trione | 2.1 g | ClC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)N2C(N(C(NC2=O)=O)C)=O)C=C1 | C17H11ClN4O4S
